US08865713B2
Step A: 4-Chloro-2-nitro-5-propylsulfanyl-phenylamine.
To a mixture of 4,5-dichloro-2-nitro-phenylamine (3.50 g, 16.9 mmol), potassium carbonate (4.67 g, 33.8 mmol), and DMF (85 mL) was added 1-propanethiol (2.30 mL, 25.4 mmol). The reaction mixture was heated at 90° C. for 1.5 h, and allowed to cool to 23° C. The mixture was poured into ice/brine (600 mL) and the resulting precipitate was collected to yield the titled compound (4.09 g, 98%). 1H NMR (600 MHz, CDCl3): 8.11 (s, 1H), 6.46 (s, 1H), 6.10 (br s, 2H), 2.91 (t, J=7.3 Hz, 2H), 1.85-1.76 (m, 2H), 1.12 (t, J=7.4 Hz, 3H).

reactant | 4,5-dichloro-2-nitro-phenylamine | 16.9 mmol, 3.50 g | ClC1=CC(=C(C=C1Cl)N)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | potassium carbonate | 33.8 mmol, 4.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-propanethiol | 25.4 mmol, 2.30 mL | C(CC)S | C3H8S
solvent | DMF | 85 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-2-nitro-5-propylsulfanyl-phenylamine | 4.09 g, 98% | ClC1=CC(=C(C=C1SCCC)N)[N+](=O)[O-] | C9H11ClN2O2S
